US04670448
(a) 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxaldehyde
Dimethyl sulphoxide (304 mg) was added to a solution of oxalyl chloride (254 mg) in dichloromethane (20 ml) at -60° under nitrogen for 2 min. and a solution of 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol (0.5 g) in dichloromethane (10 ml) was added. The mixture was stirred at -50° to -60° for 15 min. and then quenched with triethylamine (657 mg). The solution was allowed to warm to 25° and was diluted with water. The aqueous phase was extracted with dichloromethane and the combined organic extracts were dried and evaporated to leave the title compound as a pale yellow oil (0.4 g).

reactant | Dimethyl sulphoxide | 304 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 254 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol | 0.5 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C20H31N5O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxaldehyde | 0.4 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)C=O | C20H29N5O2
